US07365076B2
1-[1-(3′-methoxy-1,1′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride
In an analogous manner to Example 135, step 4,1-[1-(3′-methoxy-1,1′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride was prepared from tert-butyl 4-[2-(1-hydroxycyclohexyl)-2-(3′-methoxy-1,1′-biphenyl-4-yl)ethyl]piperazine-1-carboxylate. MS (ES) m/z 395.4 ([M+H]+); HRMS: calcd for C25H34N2O2.2.00 HCl, 466.2154; found (ESI), 395.2697.

reactant | tert-butyl 4-[2-(1-hydroxycyclohexyl)-2-(3′-methoxy-1,1′-biphenyl-4-yl)ethyl]piperazine-1-carboxylate | OC1(CCCCC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C1=CC(=CC=C1)OC | C30H42N2O4
reactant | HCl | Cl | ClH
product | 1-[1-(3′-methoxy-1,1′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride | Cl.Cl.COC=1C=C(C=CC1)C1=CC=C(C=C1)C(CN1CCNCC1)C1(CCCCC1)O | InChI=1S/C25H34N2O2.2ClH/c1-29-23-7-5-6-22(18-23)20-8-10-21(11-9-20)24(19-27-16-14-26-15-17-27)25(28)12-3-2-4-13-25;;/h5-11,18,24,26,28H,2-4,12-17,19H2,1H3;2*1H
